US08420655B2
N1-tert-Butyl-4-(2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-5-yl)-benzene-1,2-diamine
In a microwave vial are added N1-tert-Butyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-benzene-1,2-diamine (100 mg, 0.5 mmol) and 5-bromo-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine (180 mg, 0.62 mmol), tetrakis(triphenylphosphine)palladium(0) (58 mg, 0.05 mmol) and K2CO3 (139 mg, 1 mmol) in DMF (4 mL) and H2O (0.2 mL). The reaction mixture is heated at 110° C. in a microwave reactor for 1 hour. The reaction is cooled down to room temperature, poured into H2O (10 mL) and extracted with EtOAc (3×10 mL). The combined organic layer is dried (MgSO4), filtered and concentrated. The residue is purified by silica gel flash column chromatography eluting with 10% MeOH in CH2Cl2 to afford the title intermediate (40 mg, 28%). LCMS (ESMS): m/z 283.20 (M++1)

reactant | N1-tert-Butyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-benzene-1,2-diamine | 0.5 mmol, 100 mg | C(C)(C)(C)NC=1C(=CC(=CC1)B1OC(C(O1)(C)C)(C)C)N | C16H27BN2O2
reactant | 5-bromo-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine | 0.62 mmol, 180 mg | BrC=1C=C2C(=NC1)NCC2 | C7H7BrN2
reactant | K2CO3 | 1 mmol, 139 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | H2O | 0.2 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 10 mL | O | H2O
product | N1-tert-Butyl-4-(2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-5-yl)-benzene-1,2-diamine | 40 mg, 28% | C(C)(C)(C)NC=1C(=CC(=CC1)C=1C=C2C(=NC1)NCC2)N | C17H22N4
